US08258144B2
1-((1-(5-fluoro-2-(2-oxo-1,2,3,4-tetrahydroquinolin-6-ylamino)pyrimidin-4-yl)piperidin-4-yl)methyl)urea
To a suspension of 6-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)-3,4-dihydroquinolin-2(1H)-one (26 mg, 0.070 mmol) in CH3CN (1 mL), an aqueous solution of potassium cyanate (34 mg, 0.42 mmol) in H2O (1 mL) was added. The mixture was stirred at 70° C. for 1 h. Solvents were removed in vacuo. The residue was purified by HPLC to give the titled compound (8 mg). MS 414.3 (M+H); UV 205.8, 276.8 nm

reactant | 6-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)-3,4-dihydroquinolin-2(1H)-one | 0.070 mmol, 26 mg | NCC1CCN(CC1)C1=NC(=NC=C1F)NC=1C=C2CCC(NC2=CC1)=O | C19H23FN6O
reactant | potassium cyanate | 0.42 mmol, 34 mg | [O-]C#N.[K+]
solvent | CH3CN | 1 mL | CC#N | C2H3N
solvent | H2O | 1 mL | O | H2O
product | 1-((1-(5-fluoro-2-(2-oxo-1,2,3,4-tetrahydroquinolin-6-ylamino)pyrimidin-4-yl)piperidin-4-yl)methyl)urea | 8 mg | FC=1C(=NC(=NC1)NC=1C=C2CCC(NC2=CC1)=O)N1CCC(CC1)CNC(=O)N | C20H24FN7O2
